US04171367
2-(1-Cyclohexyl-5-pyrazolyl)-amino-2-imidazoline
2-(1-phenyl-5-pyrazolyl)-amino-2-imidazoline (9.00 g.) in 250 ml. methanol was hydrogenated at 3 atmospheres and 60° C. over 5% Rh/Al2O3 catalyst. The catalyst was filtered, the solvent removed in vacuum and the residue crystallized from benzene to give 4.0 g. of product, mp 183°-185° C.

reactant | 2-(1-phenyl-5-pyrazolyl)-amino-2-imidazoline | 9.00 g | C1(=CC=CC=C1)N1N=CC=C1C=1N(CCN1)N | C12H13N5
catalyst | Rh/Al2O3 | [Rh] | Rh
solvent | methanol | CO | CH4O
product | 2-(1-Cyclohexyl-5-pyrazolyl)-amino-2-imidazoline | C1(CCCCC1)N1N=CC=C1C=1N(CCN1)N | C12H19N5
